US05208244
B. Synthesis of (E)-6-(Bromomethylene)tetrahydro-3-phenoxy-2H-pyran-2-one
A mixture of the α-(3-butynyl)phenoxyacetic acid of Part A, (74 mg, 0.36 mmol), N-bromosuccinimide (132 mg, 0.720 mmol), potassium bicarbonate (98 mg, 0.90 mmol) and 0.4M aqueous tetrabutylammonium hydroxide (0.11 mL, 0.044 mmol) in CH2Cl2 (8 mL) was stirred at room temperature in the dark for 7 h. The mixture was washed with 5% Na2S2O3 and saturated NaCl. The organic Iayer was dried (MgSO4) and the solvent was removed in vacuo to give 42 mg of an oil.

reactant | α-(3-butynyl)phenoxyacetic acid | C(CC#C)C(C(=O)O)OC1=CC=CC=C1 | C12H12O3
reactant | N-bromosuccinimide | 0.36 mmol, 74 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | potassium bicarbonate | 0.90 mmol, 98 mg | C([O-])(O)=O.[K+]
reactant | tetrabutylammonium hydroxide | 0.044 mmol, 0.4M, 0.11 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | (E)-6-(Bromomethylene)tetrahydro-3-phenoxy-2H-pyran-2-one | 42 mg | Br\C=C\1/CCC(C(O1)=O)OC1=CC=CC=C1 | C12H11BrO3
